US04159338
To a solution of 70.0 g (0.32 mole) of 2-(4-fluorophenyl-1-(2-thienyl)ethanone in 600 ml of ether was added dropwise a solution of 56.0 g (0.35 mole) of bromine in 120 ml of methylene chloride at room temperature. The reaction mixture was concentrated under vacuum to give 123.0 g of 2-bromo-2-(4-fluorophenyl)-1-(2-thienyl)ethanone as an oil.

reactant | 4-fluorophenyl-1-(2-thienyl)ethanone | FC1=CC=C(C=C1)CC(=O)C=1SC=CC1 | C12H9FOS
reactant | bromine | 0.35 mole, 56.0 g | BrBr | Br2
solvent | ether | 600 ml | CCOCC | C4H10O
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-2-(4-fluorophenyl)-1-(2-thienyl)ethanone | 123.0 g | BrC(C(=O)C=1SC=CC1)C1=CC=C(C=C1)F | C12H8BrFOS
